Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My friend called ___ on me because I downed a bottle of my 
pills" 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Per Dr. ___ (___) ED Initial Psychiatry Consult note:
"Ms. ___ is a ___ year-old female ___ at ___ with a past 
medical history of depression who was brought in by the ___ 
police after she took 20 Prozac tablets and told her friend, who 
alerted the campus police.
.
The patient was in her usual state of health until ___ years ago 
when she was sexually assaulted. Since then, the patient has had 
worsening depressive symptoms. She reports difficulty sleeping, 
difficulty concentrating, and passive suicidal ideation once or 
twice per day. One year ago, the patient started taking Prozac 
20 mg, which was up titrated to 30 mg starting one month ago. 
She currently sees her psychiatrist once per week or once every 
other week and her therapist every week. The patient says that 
she was recently told she has PTSD.
.
The patient reports that she feels stressed about school and 
also about money. She says she earned a scholarship for women in 
science but the check got lost in the mail, and it took a long 
time to get re-issued, which she found very stressful.
.
The patient reports  increased feelings of hopelessness, guilt, 
helplessness, and worthlessness. Her sleep is decreased, with 
difficulty falling and staying asleep. She has nightmares almost 
every night.
.
Her energy is unchanged. The patient reports decreased interest 
in doing things she used to do, in particular reading, writing, 
and watching movies. The patient reports that she can't watch 
movies anymore because something might happen in the movies that 
she finds triggering. The patient has found this particularly 
disruptive because she is a ___ major. 
.
The patient reports decreased motivation and decreased appetite 
with a 15 pound weight loss in the three months since ___. 
Although the patient has passive suicidal ideation once or twice 
per day, she usually does not have a plan and her overdose today 
was her first suicide attempt.
.
The patient denies any thoughts of hurting or killing others.
.
The patient denies an increased need for sleep, increased 
grandiosity, increased impulsivity, risk behavior. She endorses 
gaol-directed behavior, denies racing thoughts, and endorses 
distractibility.
.
No auditory, command, or visual hallucinations. No delusions of 
persecution or paranoia.
.
The patient reports anxiety, with rumination, intrusive thoughts 
and images related to her sexual assault, and avoidance of 
things  that remind her of her sexual assault, particularly 
movies, as noted above.
.
The patient endorses symptoms of panic, including shortness of 
breath, palpitations, lightheadedness, feeling hot, feeling 
nauseous. She endorses hypervigilence.
.
The patient denies behaviors consistent with an eating disorder 
including restricting, exercising, using laxatives or 
diuretics."
.
ED Course: Patient remained in good behavior control. No 
chemical or physical restraints administered. 
.
Upon interview today on Deac 4, patient reports that she has had 
depression since high school, but thinks what has changed is her 
new diagnosis of PTSD. She explains that she was sexually 
assaulted ___ years ago, and since then, she has had difficulty 
understanding and coping with "what is happening to [her]." She 
explains that she will become triggered "randomly", which has 
resulted in her drinking more and avoiding certain types of men 
and situations that remind her of her trauma. She endorses  
nightmares ___ related to her trauma, and flashbacks 
___. Patient also describes having a "phantom pain" in 
the physical locations of her assault when she thinks of her 
trauma. 
.
The night prior to her admission she reports that she was 
drinking more than usual, though she "no longer knows what her 
normal amount is anymore." She said she was drinking and was 
feeling depressed. So that night, she understood that she as 
having a "crisis" and called her friend who talked her down 
until she was able to fall asleep. However, upon waking, she 
felt that nothing was better and continued to feel hopeless. So, 
she decided to take the rest of the bottle of her Fluoxetine 
with the intent of overdosing and dying. She states she was 
texting her friend throughout this and told him she had taken 
the pills, but did not expect he would call the police. She did 
not want to be "saved" and was angry he told the police because 
she wanted to die and it left her feeling more hopeless. 
.
Patient continues to express SI upon interview, but states she 
does not have a specific plan. She admits to recurrent thoughts 
of death approximately ___ times per day. She provides an 
example of when she was in the ER and a friend had brought her 
belongings in a plastic bag. In that moment she thought about 
how she could use the plastic bag to suffocate herself. She 
notes that she has felt safe since coming to hospital, but is 
"unsure" if she would attempt suicide again if she was 
discharged. Patient reports she would feel comfortable talking 
to staff if she has any SI while on the unit. 
.
Continues to endorse depressed mood, anhedonia, decreased 
appetite, decreased sleep, fatigue, loss of energy, 
worthlessness, guilt, diminished concentration, hopelessness, 
and recurrent thoughts of death.
.
While in Deac 4, she explains that she "would like direct help." 
She feels that she has been to so many different therapists, but 
feels they are not direct with her. She understands why she is 
here, but hopes for her treatment team to be honest and direct 
with her. 
.
=============================
PSYCHIATRIC REVIEW OF SYSTEMS
=============================
Positive per HPI. Denies the following:
- psychomotor agitation/retardation, delusions, thought 
broadcasting/insertion, hallucinations, elevated/irritable mood, 
increased activity/energy, decreased need for sleep, 
grandiosity, increased speech, racing thoughts, distractibility, 
increase in goal-directed activity/psychomotor agitation, 
social/economic indiscretion, phobias, rumination, obsessions, 
compulsions.
. 
MEDICAL
Positive for: nausea
Otherwise, a 10-point ROS was negative, including: Fever, 
headache, eye pain, hearing deficit, chest pain, shortness of 
breath, abdominal pain, constipation, diarrhea, MSK pain
 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY
========================
- Past diagnoses: Depression ___ major depressive disorder at 
age ___, PTSD
- Hospitalizations: None
- Psychiatrist: ___ (at ___), 
sees weekly or every other week
- Therapist: ___ (___ health services), sees
weekly
- Medication and ECT trials: Has only tried Prozac
- Self-injurious behaviors: Used to cut on bilateral wrists ___
years ago, no longer has SIB
- Suicide attempts: Denies suicide attempts prior this this
admission
- Harm to others: Denies
- Trauma: h/o sexual assault ___ years ago)
.
====================
PAST MEDICAL HISTORY
====================
- PCP:  ___ (at ___ in ___
- Hx of head trauma: Denies
- Hx of seizure: Denies
- PMHx: Denies
.
===========
MEDICATIONS
===========
Prozac 30 mg daily
.
=========
ALLERGIES
=========
NKDA
.
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: Patient has ___ drinks per night (if ___ a whole
bottle of wine, if a weekend can be ___ shots of hard liquor and
drinks), on 3 nights per week; will black out ~1x/week
- Tobacco: Denies
- Cannabis: Smokes one bowl ___ times per week
- Illicits: Denies
.
================
FORENSIC HISTORY
================
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies
 
Social History:
==============
SOCIAL HISTORY
==============
- B/R: Born in ___, moved to ___ where she was raised
- Family: Mom, Dad, and a younger brother.
- Relationship status: Single
- Primary supports: Mother, has 4 very close friends (3 who live 
in ___
- Housing: dorms of ___, single room
- Education: ___ at ___. Studies ___ and 
___ studies. Received a scholarship for women in science. 
The patient does "girls who code." She codes in Java, CSS, HTML. 
She has her own website on which she posts photography, 
including portraits of friends and pictures she took of kids at 
the summer camp where she works
- Employment/income: Unemployed, scholarships for school
- Spiritual: Denies
- Access to weapons: Denies
 
Family History:
==========================
FAMILY PSYCHIATRIC HISTORY
==========================
Depression: Dad, Aunt, ___
Alcohol use disorder: Grandpa, Aunt, Dad
No family history of psychiatric hospitalizations.
 
Physical Exam:
===EXAM ON ADMISSION===
Vital Signs:
T: 98.3 HR: 78 BP: 122/74 RR: 20, 100%RA
.
GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes, 
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no 
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no 
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted
.
NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all 
distributions
     - VII: no facial droop, facial musculature symmetric and 
___ strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention 
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm 
swing, able to walk in tandem without difficulty, Romberg absent
.
COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min 
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "Trump, ___, ___
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "Look at people's 
characteristics, not their appearances"
     - bicycle/train: "modes of transportation"
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
MENTAL STATUS:
- Appearance: no acute distress, ___ female, 
appearing stated age, adequate hygiene and grooming, blonde hair
- Behavior: calm, forthcoming, no psychomotor agitation or 
retardation, appropriate eye contact, good posture
- Attitude: cooperative, friendly
-Mood/Affect: "leveled", even, initially restricted 
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose 
associations
- Thought Content: endorsing SI, denies HI, no evidence of 
paranoia, denies AVH, not appearing to be attending to internal 
stimuli
- Judgment and Insight: Impaired judgment, fair insight (would 
like to receive help)
.
.
===EXAM AT DISCHARGE===
Vital signs: ___ 0811 Temp: 97.9 PO BP: 117/72 HR: 76 RR: 
16 O2 sat: 100% 
.
MENTAL STATUS:
___ yo pleasant, AAF who was found in the dining area friendly 
interacting with other peers. NAD, no facial asymmetry, freely 
moves all her extremities, proceeded to the office with 
unremarkable gait.
- Appearance: appearing stated age, casually dressed, good 
hygiene and grooming, blonde colored hair, in small braids.
- Behavior: calm, forthcoming, no psychomotor agitation or 
retardation, appropriate eye contact, sitting with her legs up 
on her chair.
- Attitude: cooperative, friendly, engaged in the interview
- Mood/Affect: "fine".  Affect slightly constricted but 
reactive, appropriate to topics of conversation, full range, 
laughter in response to joking remark. No tearfulness. 
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, 
future-oriented, no loose associations
- Thought Content: denied SI, denies HI, no evidence of 
paranoia, denies AVH, not appearing to be attending to internal 
stimuli
- Judgment and Insight: Fair insight (would like to receive 
help); Fair judgment
 
Pertinent Results:
___ 10:45AM   WBC-3.9* RBC-4.43 HGB-12.1 HCT-37.5 MCV-85 
MCH-27.3 MCHC-32.3 RDW-14.2 RDWSD-43.4
___ 10:45AM   NEUTS-37.6 ___ MONOS-13.8* EOS-1.8 
BASOS-1.8* IM ___ AbsNeut-1.45* AbsLymp-1.72 AbsMono-0.53 
AbsEos-0.07 AbsBaso-0.07
___ 05:17PM   GLUCOSE-99 UREA N-10 CREAT-0.8 SODIUM-143 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-25 ANION GAP-14
___ 10:45AM   GLUCOSE-84 UREA N-8 CREAT-0.7 SODIUM-143 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-25 ANION GAP-17
___ 05:17PM   CALCIUM-9.3 PHOSPHATE-4.2 MAGNESIUM-2.0
___ 10:45AM   ALT(SGPT)-12 AST(SGOT)-24 ALK PHOS-64 TOT 
BILI-0.2
___ 10:45AM   ALBUMIN-4.9
___ 10:45AM   ASA-NEG ETHANOL-56* ACETMNPHN-NEG 
tricyclic-NEG
___ 03:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:00PM URINE  UCG-NEGATIVE

___ 10:45AM BLOOD ALT-12 AST-24 AlkPhos-64 TotBili-0.2
___ 06:35AM BLOOD %HbA1c-4.6 eAG-85
___ 06:35AM BLOOD Triglyc-50 HDL-84 CHOL/HD-2.1 LDLcalc-80
___ 06:35AM BLOOD TSH-0.___ is a ___ year-old female with no significant PMH, and past 
psychiatric hx of depression and PTSD who presented after a 
suicide attempt by overdosing on 20 tablets of Prozac in the 
context of depression and EtOH intoxication.
.
1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was placed on 15 minute checks 
status on admission (least restrictive level) and remained on 
that level of observation throughout while being unit 
restricted.  There were no behavioral concerns during the 
hospitalization.

2. PSYCHIATRIC:
#) Major Depressive Disorder, Recurrent, Severe
#) PTSD
On admission to the inpatient unit, on ___, Ms. ___ 
reported ongoing thoughts of SI without plan, though admitted to 
feeling safe while in the hospital. She reports depressed mood, 
anhedonia, decreased appetite, decreased sleep, fatigue, loss of 
energy, worthlessness, guilt, diminished concentration, 
hopelessness, and recurrent thoughts of death. She also reports 
having nightmares ___ related to her trauma, flashbacks 
___, hypervigilence, and avoidance of situations related 
to her trauma. Initial exam was notable for cooperative patient 
with restricted and dysthymic affect, linear and goal oriented 
thought process, and thought content notable for ongoing SI. 
Patient had impaired judgment in context of recent suicide 
attempt and ongoing SI, but had fair insight, saying that she 
would like to  receive treatment. Cognitive exam was within 
normal limits. The current presentation was concerning for major 
depressive episode and PTSD. 
.
Patient was started on mirtazapine 7.5mg PO qHS and hydroxyzine 
25mg PO q6h PRN for anxiety and insomnia.
.
By the time of discharge, Ms. ___ reported improvement in 
sleep and mood after taking mirtazapine and n teh context of 
being in a supportive environment. She did note some residual 
fatigue in the morning and increased startle reflex. Ms. 
___ described feeling ready to return to school and to 
continue working with outpatient providers. She repeatedly 
denied thoughts, intent, or plan to harm herself or others. In 
addition, she was able to engage in safety planning for after 
discharge and was able to describe numerous sources of support 
that she could contact if she felt at risk.
.
3. SUBSTANCE USE DISORDERS:
In individual session, patient was provided with psychoeducation 
about negative effect of alcohol  on mood, general health, 
cognition. We discussed ___ effect and risk for 
increased impulsivity when intoxicated on alcohol. 
.
4. MEDICAL
#) No acute medical illnesses.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups focus on 
teaching patients various coping skills. Ms. ___ attended 
some of the groups and participated appropriately. She also 
engaged with fellow patients in the milieu.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the team to 
contact her mother. Family meeting was held with patient's 
mother (Mrs. ___, ___: mother came from 
___ day prior after learning that pt is in the hospital. 
Patient, her mother, SW and attending psychiatrist were present 
during the meeting. Patient's mother was appropriately concerned 
about the patient and knew from the patient about the overdose. 
Mother expressed concern about pt "being triggered". Patient and 
mother appeared to have a good and very close relationship. Per 
mother, patient appeared to be close to her usual baseline. Team 
shared 
impression and treatment recommendations. We discussed 
importance of therapy and medication management. We also 
discussed possibility of intensive outpatient program. Patient 
expressed understanding. However, she was not sure if she would 
be able to do it in addition to her usual school work. Patient 
and mother were provided with psychoeducation and appropriate 
steps in case of emergency: reaching out to providers; reaching 
out to mother. We also discussed supports offered through NAMI.
.
#) INTERVENTIONS
- Medications: Patient was started on mirtazapine 7.5mg PO qHS 
and hydroxyzine 25mg PO q6h PRN for anxiety and insomnia.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow-up appointments were 
scheduled with psychiatrist and therapist at the ___. Re-entry appointment with 
___ was also scheduled. In addition, patient was 
provided with handout containing information about the ___ 
___ partial hospital program.
.
INFORMED CONSENT: Mirtazapine, Hydroxyzine
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of starting this medication, 
 and risks and benefits of possible alternatives, including not  
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as  
well as the importance of the patient's actively participating  
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.
.
RISK ASSESSMENT& PROGNOSIS
On presentation, Ms. ___ was evaluated and felt to be at 
increased risk of harm to self due to worsening depression and 
recent suicide attempt, along with a number of other risk 
factors, as detailed below.
.
Ms. ___ static risk factors noted at that time include 
chronic mental illness, history of abuse/trauma, history of 
substance abuse, history of self-injurious behavior, family 
history of mental illness/substance use disorder, adolescent 
age, single relationship status.
.
The modifiable risk factors identified were as such: suicidal 
ideation without plan, increased alcohol use, acute 
intoxication, impulsivity, poorly controlled mental illness, 
hopelessness, severe anxiety, insomnia, lack of purpose, feeling 
trapped, decreased self-esteem, psychic pain/turmoil, limited 
coping skills. These modifiable risk factors were addressed with 
acute stabilization in a safe environment on a locked inpatient 
unit, psychopharmacologic adjustments, psychotherapeutic 
interventions (OT groups, SW groups, individual therapy meetings 
with  psychiatrists, and presence on a social milieu 
environment.
. 
Ms. ___ is being discharged with several protective 
factors, including female gender, sense of responsibility to 
family, help-seeking behavior, life satisfaction, 
future-oriented viewpoint, strong social supports, lack of 
suicidal ideation, consistent outpatient follow-up, positive 
therapeutic relationship with outpatient providers, medication 
adherence, no chronic substance use, lack of access to lethal 
weapons, reality-testing ability, good coping skills, good 
problem-solving skills. Overall, based on the totality of our 
assessment at  this time, Ms. ____ does not manifest 
symptoms of acute psychiatric illness; she does not exhibit 
symptoms consistent with decompensated affective or psychotic 
illness. She is not at an acutely elevated risk of harm to 
herself nor a danger to others. She no longer requires ongoing 
inpatient hospitalization. 
.
Furthermore, Ms. ___  possesses the preserved capacity to  
engage in a meaningful discussion about safety planning in the  
event that symptoms of depression worsen or suicidal or  
homicidal ideation arise in the future (e.g. patient reported 
that she would go to the nearest emergency room or call ___.
Our Prognosis of this patient is fair. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 30 mg PO DAILY 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN anxiety/insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth every six (6) hours 
Disp #*10 Tablet Refills:*0 
2.  Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe
Post Traumatic Stress Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Vital signs: ___ 0811 Temp: 97.9 PO BP: 117/72 HR: 76 RR: 
16 O2 sat: 100% 
.
Alert and oriented x 4. Well-engaged in interview, euthymic, 
slightly constricted affect, congruent with 'fine' mood. Speech 
with normal rate, volume, and prosody. Thought process was 
linear, goal-oriented, future-oriented. Thought content was 
withoud delusions, AVH, and without thoughts, intent, or plan to 
harm herself or others. In addition, patient was able to engage 
in safety planning for after discharge and was able to describe 
numerous sources of support that she could contact if she felt 
at risk.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___